US05354769
1-methyl-2-(benzofuran-2-yl)imidazole hydrochloride
To a solution of the free base (7.0 g) generated from 2-(benzofuran-2-yl)imidazole hydrochloride in DMF (50 ml) at 0° C. was added sodium hydride (1.4 g) 80% in mineral oil in three equal portions. After 30 minutes at room temperature, methyl iodide (2.5 ml) was added dropwise over 15 minutes at 0° C. The mixture was then stirred for 30 minutes at room temperature, poured into water and extracted with ethyl acetate. The organic layer was washed with water and the product was extracted with hydrochloric acid (1M). The aqueous layer was basified with sodium hydroxide and the free base was extracted with ethyl acetate, washed with saturated brine and dried. Evaporation of the solvent gave a solid residue which was dissolved in diethyl ether/ethanol. Ethereal HCl was added to solution and the precipitated salt was collected by filtration (8.1 g, 91%).

reactant | 2-(benzofuran-2-yl)imidazole hydrochloride | Cl.O1C(=CC2=C1C=CC=C2)C=2NC=CN2
reactant | sodium hydride | 1.4 g | [H-].[Na+]
reactant | methyl iodide | 2.5 ml | CI | CH3I
reactant | HCl | Cl | ClH
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | diethyl ether ethanol | C(C)OCC.C(C)O
solvent | water | O | H2O
product | 1-methyl-2-(benzofuran-2-yl)imidazole hydrochloride | Cl.CN1C(=NC=C1)C=1OC2=C(C1)C=CC=C2 | InChI=1S/C12H10N2O.ClH/c1-14-7-6-13-12(14)11-8-9-4-2-3-5-10(9)15-11;/h2-8H,1H3;1H
